US07638514B2
2.0 g of 2-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propyl}-2-(4-fluoro-phenyl)-[1,3]dioxolane are dissolved in 20 ml of ethanol, and 1.95 g of 10% aqueous hydrochloric acid are added thereto. After stirring for 16 hours at 80° C., the reaction mixture is concentrated. After purification over silica gel, 4-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-1-(4-fluoro-phenyl)-butan-1-one is obtained.

reactant | 2-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propyl}-2-(4-fluoro-phenyl)-[1,3]dioxolane | 2.0 g | ClC1=C(OCCCC2(OCCO2)C2=CC=C(C=C2)F)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C21H19Cl4FO4
reactant | hydrochloric acid | 1.95 g | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-1-(4-fluoro-phenyl)-butan-1-one | ClC1=C(OCCCC(=O)C2=CC=C(C=C2)F)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C19H15Cl4FO3
